US08026257B2
3-Bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde.
3-Bromo-5-chloro-1H-indazole-7-carbaldehyde (1.4 g, 5.4 mmol) and N-methyldicyclohexylamine (1.6 mL, 7.28 mmol) were suspended in tetrahydrofuran (6 mL), cooled to 0° C., and treated with (2-(chloromethoxy)ethyl)trimethylsilane (2.0 mL, 6.74 mmol). The ice bath was removed and stirring continued for 4 h. The reaction was poured into ethyl acetate, washed with water (3×), 1M potassium bisulfate (2×), then brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (10% ethyl acetate/hexanes) gave 1.45 g (69%) as a faint yellow oil. 1H-NMR (CDCl3, 500 MHz) δ 10.28 (s, 1H), 7.97 (d, J=1.83 Hz, 1H), 7.87 (d, J=2.14 Hz, 1H), 6.0(s, 2H), 3.48-3.51 (m, 2H), 0.80-0.83 (m, 2H), 0.10 (s, 9H).

reactant | 3-Bromo-5-chloro-1H-indazole-7-carbaldehyde | 5.4 mmol, 1.4 g | BrC1=NNC2=C(C=C(C=C12)Cl)C=O | C8H4BrClN2O
reactant | N-methyldicyclohexylamine | 7.28 mmol, 1.6 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 6.74 mmol, 2.0 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 3-Bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde | BrC1=NN(C2=C(C=C(C=C12)Cl)C=O)COCC[Si](C)(C)C | C14H18BrClN2O2Si
